US06090946
Ethyl N-(4-methylphenyl)carbamate (2.87 g, 10 mmol), ethyl 2-hydroxy-3-methyl-3-butenoate (3.90 g, 30 mmol), tetrabutylammonium chloride (139 mg, 0.5 mmol) and tributylamine (92.7 mg, 0.5 mmol) were introduced into a flask (25 cc) equipped with a distillation unit, and the reaction was conducted at 200° C. for 8 hours. After the reaction solution was cooled to room temperature, toluene (20 mL) was added, and then the reaction solution was washed with water (20 mL), then 1N sodium hydroxide (20 mL) and 1N hydrochloric acid (20 mL). The organic layer was dried over magnesium sulfate. After the drying agent was filtered off, the filtrate was concentrated under reduced pressure. To the resulting oily crude product, methanol (3.5 mL) acidified with hydrochloric acid was added to form a homogeneous solution. Then, 6N hydrochloric acid (0.4 mL) was further added, and the solution was left to stand at room temperature. The precipitated crystals were collected by filtration, then washed with a 20:1 mixed solvent consisting of methanol and 6N hydrochloric acid and dried to obtain 3-(4-methylphenyl)-5-isopropylidene-1,3-oxazolidine-2,4-dione (1.07 g, yield 46.1%).

reactant | Ethyl N-(4-methylphenyl)carbamate | 10 mmol, 2.87 g | CC1=CC=C(C=C1)NC(OCC)=O | C10H13NO2
reactant | ethyl 2-hydroxy-3-methyl-3-butenoate | 30 mmol, 3.90 g | OC(C(=O)OCC)C(=C)C | C7H12O3
reactant | tributylamine | 0.5 mmol, 92.7 mg | C(CCC)N(CCCC)CCCC | C12H27N
reactant | hydrochloric acid | 6N, 0.4 mL | Cl | ClH
catalyst | tetrabutylammonium chloride | 0.5 mmol, 139 mg | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-methylphenyl)-5-isopropylidene-1,3-oxazolidine-2,4-dione | 1.07 g, yield 46.1% | CC1=CC=C(C=C1)N1C(OC(C1=O)=C(C)C)=O | C13H13NO3
